US05561142
EXAMPLE 14 3-(2-Chloroacetyl)pyridine hydrochloride
To a solution of 12 g (11 mL, 100 mmol) of 3-acetylpyridine in 100 mL of ethyl ether was added 100 mL of 1 M ethereal hydrogen chloride. The resultant precipitate was filtered and 15.0 g (95.2 mmol) was collected and placed in a 500-mL round bottom flask equipped with a magnetic stir bar. To this was added 95 mL of 1 M hydrogen chloride in acetic acid. After the mixture was stirred until all the solid had dissolved, 12.7 g (95.2 mmol) of N-chlorosuccinimide (NCS) was added in one portion. The solution turned yellow and the NCS gradually dissolved. After 4 h, a white precipitate had formed. The mixture was allowed to stir for 2.5 days. It was then filtered. The solid collected was washed with 10 mL of acetic acid and 200 mL of ethyl ether to give 15.2 g (83%) of the title compound as a white solid: 1H NMR (200 MHz, d6 -DMSO) δ9.22 (t, H, J=1 Hz), 8.29 (dd, 1H, J=1.6, 5.1 Hz), 8.55 (td, 1H, J=2, 8.1 Hz), 7.82 (ddd, 1H, J=0.8, 5.1, 8.1 Hz), 5.27 (s, 2H).

reactant | 3-acetylpyridine | 100 mmol, 11 mL, 12 g | C(C)(=O)C=1C=NC=CC1 | C7H7NO
reactant | hydrogen chloride | 1 M, 100 mL | Cl | ClH
reactant | N-chlorosuccinimide | 95.2 mmol, 12.7 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | ethyl ether | 100 mL | C(C)OCC | C4H10O
product | 3-(2-Chloroacetyl)pyridine hydrochloride | 15.2 g, 83% | Cl.ClCC(=O)C=1C=NC=CC1 | InChI=1S/C7H6ClNO.ClH/c8-4-7(10)6-2-1-3-9-5-6;/h1-3,5H,4H2;1H
